US09358231B2
B. 4-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde
Na (370 mg, 16.12 mmol) was dissolved in MeOH (5 mL) and 4-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde (500 mg, 1.61 mmol) was added to the sodium methoxide solution. The reaction mixture was stirred for 8 hours for 60° C. The reaction mixture was quenched with water and the organic solvent was removed under reduced pressure. The resulting mixture was partitioned between ethyl acetate and water. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic extracts were washed with brine, dried over MgSO4, celite filtered and concentrated under reduced pressure. The crude product was purified by flash chromatography using (5% to 20% Ethyl acetate/Hexane) as a solvent to afford title compound (380 mg, 77% yield). 1H NMR (600 MHz, CDCl3) δ 10.51 (s, 1H), 8.74 (s, 1H), 7.36 (d, J=3.6 Hz, 1H), 6.90 (d, J=4.2 Hz, 1H), 5.72 (s, 2H), 4.48 (s, 3H), 3.60 (t, J=7.8 Hz, 2H), 0.97 (t, J=8.4 Hz, 2H), 0 (s, 9H). MS m/z: 307 [M+1].

reactant | 4-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 1.61 mmol, 500 mg | ClC1=C2C(=NC=C1C=O)N(C=C2)COCC[Si](C)(C)C | C14H19ClN2O2Si
reactant | sodium methoxide | C[O-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | 4-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 380 mg, 77% yield | COC1=C2C(=NC=C1C=O)N(C=C2)COCC[Si](C)(C)C | C15H22N2O3Si
